US06518257B1
(i) Production of 4-fluoro-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carboxamide
By the reaction in the same manner as in Example 33-(ii) using 5-bromo-2-fluorobenzonitrile (1.04 g), a crude product (3.40 g) of 4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenylboronic acid, 2M aqueous sodium carbonate solution (5.20 ml) and tetrakis (triphenylphosphine)palladium(0) (211 mg), the title compound (1.25 g) was obtained as colorless needle crystals.

reactant | 5-bromo-2-fluorobenzonitrile | 1.04 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | 4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenylboronic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C32H31BN2O3
reactant | sodium carbonate | 2M, 5.20 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 4-fluoro-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carboxamide | 1.25 g | FC1=C(C=C(C=C1)C1=CC=C(C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)N | C39H34FN3O2
